US04794090
3-hydroxy-2-naphthol
bis-phenols such as 2,2-bis(p-hydroxyphenyl)propane and bis-(p-hydroxyphenyl)methane

reactant | 2,2-bis(p-hydroxyphenyl)propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | bis-(p-hydroxyphenyl)methane | OC1=CC=C(C=C1)CC1=CC=C(C=C1)O | C13H12O2
product | 3-hydroxy-2-naphthol | OC=1C(=CC2=CC=CC=C2C1)O | C10H8O2
